Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Right pneumothorax, pneumomediastinum
 
Major Surgical or Invasive Procedure:
___ Flexible bronchoscopy, flexible 
esophagogastroduodenoscopy

 
History of Present Illness:
Mr. ___ is a ___ year old male current smoker with a 
history of MI who is transferred from ___ for Thoracic 
Surgery evaluation of right sided rib fracture and right 
pneumothorax. The patient reports that on ___ he was hit 
over the right chest by a pool cue. He endorsed being 
intoxicated at that time and was arrested. He awoke the next 
morning with significant sharp right chest pain. He has been in 
police custody since then and developed worsening right sided 
chest pain. This morning, the patient was evaluated by a 
physician in prison who performed an EKG, which was negative for 
acute ischemic change. He was then brought to ___ for 
further evaluation of his right chest pain. Imaging demonstrated
a right 9th rib fracture with extensive subcutaneous air 
extending into parapharyngeal spaces and retropharyngeal spaces, 
a small right pneumothorax and moderate pneumomediastinum. C 
spine was negative for fracture or other injuries. The patient 
was evaluated by surgery at the OSH, who felt that he may 
require VATS given the pneumomediastinum and deferred chest tube 
placement. He was transferred to ___ for thoracic 
surgery evaluation. 

Upon arrival in the ED, the patient was hemodynamically stable, 
with oxygen saturation in the low to mid ___ on ___ NC. The 
patient endorsed ___ right chest pain with less severe pain 
extending into his right neck. He endorses a few episodes of 
coughing up blood-tinged sputum over the past few days. He also 
reports a change in the tone of his voice and altered hearing. 
He denies any dyspnea or difficulty breathing. He denies fevers, 
chills, nausea/vomiting, or PO intolerance. 
 
Past Medical History:
- CAD with prior MI and PCI (2 stents placed)
- Bilateral open inguinal hernia repairs
- Tonsillectomy
 
Social History:
___
Family History:
Denies family history of any significant medical issues

 
Physical Exam:
DISCHARGE PHYSICAL EXAM:

Vitals: T 97.6  HR 87  BP 132/81  RR 16  SpO2 93% RA

General: no acute distress
HEENT: trachea midline, no lymphadenopathy, trace crepitus along 
right neck (improved since admission)
CV: regular rate and rhythm
Pulm: normal respiratory effort, distant breath sounds but clear 
to auscultation bilaterally
GI: abdomen soft, non-distended, non-tender
Extremities: warm and well perfused, no edema
Wound: right chest tube site dressing clean/dry/intact, mild 
crepitus along right chest wall (significantly improved since 
admission)

 
Pertinent Results:
ADMISSION LABS

___ 05:00PM BLOOD WBC-7.6 RBC-4.71 Hgb-16.1 Hct-47.1 
MCV-100* MCH-34.2* MCHC-34.2 RDW-13.5 RDWSD-50.2* Plt ___
___ 05:00PM BLOOD ___ PTT-27.9 ___
___ 05:00PM BLOOD Glucose-87 UreaN-22* Creat-0.8 Na-138 
K-4.6 Cl-101 HCO3-24 AnGap-13
___ 05:00PM BLOOD Calcium-8.7 Phos-3.7 Mg-2.0

IMAGING

___ Chest xray 
IMPRESSION: Interval placement of a right chest tube, tip at the 
right apex, without discernible pneumothorax.  Extensive chest 
wall subcutaneous emphysema and pneumomediastinum 
re-demonstrated.

___ Chest xray
IMPRESSION: A right apical chest tube is present.  There is a 
small right apical pneumothorax, more conspicuous than on the 
immediate prior chest radiograph however smaller than the 
initial radiograph from yesterday.  No left pneumothorax. 
Atelectasis is present in both lower lungs. Extensive 
subcutaneous emphysema projects over the chest wall and neck. 
Pneumomediastinum is also noted.  The size of the cardiac 
silhouette is within normal limits.

___ Chest xray
IMPRESSION: Right chest tube remaining in place without 
appreciable pneumothorax.

___ Chest xray
IMPRESSION: The right apical chest tube has been removed.  There 
remains no appreciable
residual pneumothorax.  Extensive soft tissue gas along the 
chest wall, greater on the right appears similar to the prior 
examination, likely related to the chest tube.  No other 
interval changes seen.  The cardiomediastinal silhouette is 
unchanged.  There is no new consolidation.  There is no effusion
or pneumothorax.

 
Brief Hospital Course:
Patient was transferred to ___ on ___ for thoracic 
surgery evaluation of pneumomediastinum and right pneumothorax 
in the setting of a traumatic right 9th rib fracture. The 
patient had a voice change and extensive subcutaneous emphysema 
extending along right chest wall into right neck. A 24fr chest 
tube was placed at bedside in the ED, and chest xray confirmed 
appropriate placement of the chest tube with residual 
pneumothorax. The chest tube was left to suction. He was kept 
NPO and admitted to the thoracic surgery service for further 
management.

The following morning, the patient's voice change and 
subcutaneous emphysema had not improved with chest tube 
placement. ENT was consulted to perform a largyngoscopic exam to 
evaluate for damage to the larynx, which did not reveal any 
abnormalities. Of note, they did incidentally find a mucus 
retention cyst, for which they recommend follow up in ___ 
clinic. 

Given the negative ENT evaluation and the patient's lack of 
clinical improvement with the chest tube in place, the patient 
was taken to the operating room on ___ for an EGD and 
bronchoscopy to evaluate for esophageal and trachobronchial 
injury, respectively. Both the endoscopy and bronchoscopy were 
negative for any injury. For details of the procedure, please 
see the surgeon's operative note. The patient tolerated the 
procedure well without complication and was brought to the post 
anesthesia care unit in stable condition. He was then taken to 
the surgical floor, where he remained throughout his admission. 

On POD1, the patient's chest xray showed resolution of the 
pneumomediastinum and pneumothorax. His chest tube was clamped 
for a 4 hour trial, and repeat chest xray was stable. His chest 
tube was removed the next morning on POD2. His respiratory 
status remained stable, and his post-pull chest xray again 
showed no pneumothorax or pneumomediastinum. 

The patient was deemed ready for discharge home without services 
on ___. At the time of discharge, the patient was 
tolerating a regular diet, voiding without issue, ambulating 
independently without any oxygen requirement, and his pain was 
well controlled on oral pain medication alone. The patient was 
provided with wound care and follow up instructions and 
demonstrated understanding of the plan.
 
Medications on Admission:
None
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every eight 
hours Disp #*60 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice daily Disp 
#*30 Tablet Refills:*0 
3.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *oxycodone 5 mg ___ tablet(s) by mouth every four hours Disp 
#*30 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right pneumothorax
Pneumomediastinum
Right 9th rib fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital for a collapsed lung and 
you've recovered well. You are now ready for discharge.  

* Continue to use your incentive spirometer 10 times an hour 
while awake.  

*Check your incisions daily and report any increased redness or 
drainage. Cover the area with a gauze pad if it is draining.  

* Your chest tube dressing may be removed in 48 hours. If it 
starts to drain, cover it with a clean dry dressing and change 
it as needed to keep site clean and dry. 
 
* You will continue to need pain medication once you are home 
but you can wean it over a few weeks as the discomfort resolves. 
Make sure that you have regular bowel movements while on 
narcotic pain medications as they are constipating which can 
cause more problems. Use a stool softener or gentle laxative to 
stay regular.  
 * No driving while taking narcotic pain medication.  
 * Take Tylenol ___ mg every 6 hours in between your narcotic. 
If your doctor allows you may also take Ibuprofen to help 
relieve the pain. 
 
* Continue to stay well hydrated and eat well to heal your 
incisions  
* Shower daily. Wash incision with mild soap & water, rinse, pat 
dry  
* No tub bathing, swimming or hot tubs until incision healed  
* No lotions or creams to incision site  

* Walk ___ times a day and gradually increase your activity as 
you can tolerate.  

Call Dr. ___ office at ___ if you experience  

-Temp > 101, chills, increased shortness of breath, chest pain 
or any other symptoms that concern you.  

Thank you for allowing us to participate in your care! Our hope 
is that you will have a quick return to your life and usual 
activities.  

 
Followup Instructions:
___